US05273982
4-(t-Butoxycarbonylamino)butyric acid in THF was activated with chlorodimethoxytriazine and N-methylmorpholine and reacted with β-alanine benzyl ester p-toluenesulphonate in the presence of N-methylmorpholine to give N-[4-(1-t-butoxyformamido)butyryl]-β-alanine benzyl ester, m.p. 54°-55° C.

reactant | 4-(t-Butoxycarbonylamino)butyric acid | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
reactant | chlorodimethoxytriazine | ClC=1C(=NN=NC1OC)OC | C5H6ClN3O2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | β-alanine benzyl ester p-toluenesulphonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CCN)=O
solvent | THF | C1CCOC1 | C4H8O
product | N-[4-(1-t-butoxyformamido)butyryl]-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCNC(CCCNC(=O)OC(C)(C)C)=O)=O | C19H28N2O5
